### PR TITLE
Universal algebra: the second isomorphism theorem

### PR DESCRIPTION
**Pull request by andreaslyn**
There is also a specialization of the first isomorphism theorem and some cleanup.

### CODE REVIEW

File: theories/Classes/theory/ua_first_isomorphism.v [hunk 1]
```diff
@@ -234,3 +238,40 @@ Section first_isomorphism_surjection.
...
+
+  Definition hom_first_isomorphism_inj
+    : Homomorphism A (B & in_image_hom f)
+    := hom_compose
+          (hom_first_isomorphism f)
+          (hom_quotient (cong_ker f)).
+
+  Theorem isomorphic_first_isomorphism_inj
+    : A ≅ B & in_image_hom f.
+  Proof.
```
Comment (spitters) [inline theories/Classes/theory/ua_first_isomorphism.v]: This and the following one can just be definitions.

**Comment by spitters** [comment]
LGTM

File: theories/Classes/theory/ua_first_isomorphism.v (hunk 1 above)
Comment (Alizter) [reply theories/Classes/theory/ua_first_isomorphism.v]: Is there any difference in behaviour?

Comment (andreaslyn) [reply theories/Classes/theory/ua_first_isomorphism.v]: I have changed it now.

> Is there any difference in behaviour?

Same behaviour, but the code becomes a bit shorter with definitions.

File: theories/Classes/theory/ua_first_isomorphism.v [hunk 2]
```diff
@@ -91,11 +91,15 @@ Section in_image_hom.
       by destruct p.
   Qed.
 
-  Global Instance is_closed_under_ops_in_image_hom
+  Lemma is_closed_under_ops_in_image_hom
```
Comment (Alizter) [inline theories/Classes/theory/ua_first_isomorphism.v]: Why has this been changed from being an instance?

Comment (andreaslyn) [reply theories/Classes/theory/ua_first_isomorphism.v]: I changed `IsClosedUnderOps` to a definition and added the `IsSubalgebraPredicate` type class. Like this the subalgebra argument `P : ∀ s, A s → hProp ` can be changed to `P : ∀ s, A s → Type`, which I think is more consistent with the rest of the development. For instance, the quotient algebra argument `Φ : ∀ s, A s → A s → Type`.

Comment (andreaslyn) [reply theories/Classes/theory/ua_first_isomorphism.v]: Do you prefer to keep `IsClosedUnderOps` a type class?

Comment (Alizter) [reply theories/Classes/theory/ua_first_isomorphism.v]: I think `IsSubalgebraPredicate` is fine, I see why you have done it now.
